US07709500B2
Step 1: 2-{(2S)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-1H-isoindole-1,3-(2H)-dione
(R)-2-Oxiranylmethyl)-1H-isoindole-1,3-(2H)-dione (Tetrahedron Asymmetry, 1996, 7, 1641, 5 g) in a mixture of 50 ml of ethanol and 15 ml of DMF was treated with 4 (3,4-dichlorophenoxy)-piperidine (6 g). The mixture was stirred overnight at room temperature. The solution was concentrated under vacuum and the residue was azeotroped twice with toluene. The crude material was purified by chromatography (ethyl acetate) to give the subtitle compound as a yellow oil.

reactant | 1H-isoindole-1,3-(2H)-dione | 5 g | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | (3,4-dichlorophenoxy)-piperidine | 6 g | ClC=1C=C(ON2CCCCC2)C=CC1Cl | C11H13Cl2NO
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-{(2S)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-1H-isoindole-1,3-(2H)-dione | ClC=1C=C(OC2CCN(CC2)C[C@@H](CN2C(C3=CC=CC=C3C2=O)=O)O)C=CC1Cl | C22H22Cl2N2O4
